US07459562B2
D) tert-Butyl 4-(2-fluoro-4-(1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamido)phenoxy)-3-(hydroxymethyl)pyridin-2-ylcarbamate
To tert-Butyl 3-((tert-butyldimethylsilyloxy)methyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamido)phenoxy)pyridin-2-ylcarbamate (119 mg, 0.176 mmol) in THF (2 mL) at rt was added tetrabutylammonium flouride (260 μL, 0.264 mmol, 1 M in THF). After stirring at rt for 30 min, the reaction was diluted with ethyl acetate (20 mL), washed with water followed by brine (10 mL each), dried over anhydrous MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica gel (5% MeOH/EtOAc) to give the title compound (66 mg, 66%) as a yellow oil. 1H NMR (CD3OD) δ 8.62 (dd, 1H, J=7.2, 2 Hz), 8.04 (d, 1H, J=6 Hz), 7.94-7.90 (m, 2H), 7.50-7.46 (m, 2H), 7.33-7.25 (m, 3H), 7.20 (t, 1H, J=8.8 Hz), 6.67 (t, 1H, J=6.8 Hz), 6.40 (d, 1H, J=5.2 Hz), 4.78 (s, 2H), 1.49 (s, 9H); MS(ESI+) m/z 565.17 (M+H)+.

reactant | tert-Butyl 3-((tert-butyldimethylsilyloxy)methyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamido)phenoxy)pyridin-2-ylcarbamate | 0.176 mmol, 119 mg | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC=CC1OC1=C(C=C(C=C1)NC(=O)C=1C(N(C=CC1)C1=CC=C(C=C1)F)=O)F)NC(OC(C)(C)C)=O | C35H40F2N4O6Si
reactant | tetrabutylammonium flouride | 0.264 mmol, 1 M, 260 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(2-fluoro-4-(1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamido)phenoxy)-3-(hydroxymethyl)pyridin-2-ylcarbamate | 66 mg, 66% | FC1=C(OC2=C(C(=NC=C2)NC(OC(C)(C)C)=O)CO)C=CC(=C1)NC(=O)C=1C(N(C=CC1)C1=CC=C(C=C1)F)=O | C29H26F2N4O6
